US05192781
4.7 g of 3-chloro-4-(4-nitrophenyl)butan-2-one and 2.4 g of thioacetamide are dissolved in 60 ml of ethanol and refluxed for 12 hours. The reaction medium is concentrated, the residue is taken up in water and the solution is rendered basic with sodium carbonate and extracted with chloroform. After concentration of the organic phase, the solid obtained is taken up in hot pentane to give 3.5 g of 2,4-dimethyl-5-(4-nitrobenzyl)thiazole in the form of yellow crystals melting at 66° C.

reactant | 3-chloro-4-(4-nitrophenyl)butan-2-one | 4.7 g | ClC(C(C)=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C10H10ClNO3
reactant | thioacetamide | 2.4 g | C(C)(=S)N | C2H5NS
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | pentane | CCCCC | C5H12
product | 2,4-dimethyl-5-(4-nitrobenzyl)thiazole | 3.5 g | CC=1SC(=C(N1)C)CC1=CC=C(C=C1)[N+](=O)[O-] | C12H12N2O2S
